US04366160
16.8 g of 1-(benzyloxy)-2-[(2,6-dichlorophenyl)imino]-imidazolidine are dissolved in 80 ml of dimethylformamide and treated while stirring at room temperature with 1.44 g of sodium hydride. After 1 hour, there is added dropwise thereto a solution of 4 ml of methyl iodide in 20 ml of toluene. The temperature rises to 48°. After 16 hours, the mixture is poured into ice and extracted with ether. The organic phase is washed successively with water, 15 percent tartaric acid solution and water, dried over magnesium sulfate and evaporated in vacuo. The 1-(benzyloxy)-2-[(2,6-dichlorophenyl)imino]-3-methylimidazolidine obtained is used in the next step without further purification.

reactant | 1-(benzyloxy)-2-[(2,6-dichlorophenyl)imino]-imidazolidine | 16.8 g | C(C1=CC=CC=C1)ON1C(NCC1)=NC1=C(C=CC=C1Cl)Cl | C16H15Cl2N3O
reactant | sodium hydride | 1.44 g | [H-].[Na+]
reactant | methyl iodide | 4 ml | CI | CH3I
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(benzyloxy)-2-[(2,6-dichlorophenyl)imino]-3-methylimidazolidine | C(C1=CC=CC=C1)ON1C(N(CC1)C)=NC1=C(C=CC=C1Cl)Cl | C17H17Cl2N3O
